US04302458
(a) 2-methyl-6,7,8-trimethoxy-1[4,5,6-triethoxy-7-nitro-3-phthalidyl]-1,2,3,4-tetrahydro-isoquinoline
235 g (0.647 mole) of 2-methyl-6,7,8-trimethoxy-3,4-dihydro-isoquinolinium iodide (described in J. Chem. Soc. 1951, 1150), 201.4 g of 4,5,6-triethoxy-7-nitrophthalide and 107 g of potassium carbonate are added to 1.240 liters of methanol. After stirring for 24 hours at a temperature below the boiling point of the solvent, 730 ml of water is added and the reaction solution is allowed to crystallise. The crystals are collected by filtration, washed with water and dried, providing 270 g of C27H34O10N2.

reactant | 2-methyl-6,7,8-trimethoxy-3,4-dihydro-isoquinolinium iodide | 0.647 mole, 235 g | [I-].C[N+]1=CC2=C(C(=C(C=C2CC1)OC)OC)OC
reactant | 4,5,6-triethoxy-7-nitrophthalide | 201.4 g | C(C)OC1=C2COC(=O)C2=C(C(=C1OCC)OCC)[N+](=O)[O-] | C14H17NO7
reactant | potassium carbonate | 107 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 1.240 liters | CO | CH4O
solvent | water | 730 ml | O | H2O
product | 2-methyl-6,7,8-trimethoxy-1[4,5,6-triethoxy-7-nitro-3-phthalidyl]-1,2,3,4-tetrahydro-isoquinoline | CN1C(C2=C(C(=C(C=C2CC1)OC)OC)OC)C1OC(=O)C2=C(C(=C(C(=C12)OCC)OCC)OCC)[N+](=O)[O-] | C27H34N2O10
